US08207180B2
8-Amino-2-iodo-1-methyl-4,5-dihydro-1H-1,7,9-triaza -cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester (N1)
To a solution of 8-amino-1-methyl-4,5-dihydro-1H-1,7,9-triaza -cyclopenta[a]naphthalene-2,3-dicarboxylic acid 3-ethyl ester N7 (3.16 mmol) in a mixture of DCM (10 mL) and water (10 mL), under vigorous stirring at 50° C., NaHCO3 (9.48 mmol) and an aqueous solution (4 mL) of iodine (4.1 mmol) and potassium iodide (7.58 mmol) was added. The mixture was heated at 50° C. for 3 h, cooled to rt and the organic layer was separated and washed with aq NaHSO3. The organic phase was dried (Na2SO4) and evaporated to dryness. Chromatography on silica gel (eluant: AcOEt/hexane 7:3) afforded the title compound (30% yield). ESI (+) MS: m/z 399 (MH+). 1H NMR: 1.32 (t, J=7.07, 3H), 2.65 (t, J=7.68, 2H), 2.91 (t, J=7.68, 2H), 4.21 (s, 3H), 4.24 (q, J=7.07, 2H), 6.34 (bs, 2H), 8.02 (s, 1H).

reactant | 8-amino-1-methyl-4,5-dihydro-1H-1,7,9-triaza -cyclopenta[a]naphthalene-2,3-dicarboxylic acid 3-ethyl ester | C(C)OC(=O)C1=C(N(C2=C1CCC1=CN=C(N=C21)N)C)C(=O)O | C15H16N4O4
reactant | NaHCO3 | 9.48 mmol | C(=O)(O)[O-].[Na+]
reactant | iodine | 4.1 mmol, 4 mL | II | I2
reactant | potassium iodide | 7.58 mmol | [I-].[K+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 8-Amino-2-iodo-1-methyl-4,5-dihydro-1H-1,7,9-triaza -cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester | 30% yield | C(C)OC(=O)C1=C(N(C2=C1CCC1=CN=C(N=C21)N)C)I | C14H15IN4O2
